US05677319
4.2 ml of n-butyllithium was dropwise added in small portions to a suspension of 2.6 g of benzyltriphenylphosphonium chloride in 10 ml of tetrahydrofuran, with stirring at -50° C. The mixture was heated to room temperature and, after cooling again to -50° C., was mixed with 12 ml of a tetrahydrofuran solution of 2 g of 2-(3,4-diethoxyphenyl)-4-formylthiazole. The mixture was stirred at the same temperature for 30 minutes and at room temperature for 14 hours. 10 ml of water and 40 ml of ethyl acetate were added to conduct extraction and phase separation. The solvent layer was dried and subjected to distillation to remove the solvent. The residue was purified by silica gel column chromatography to obtain 2 g of 2-(3,4-diethoxyphenyl)-4-styrylthiazole as a 1:1 mixture of cis form and trans form.

reactant | n-butyllithium | 4.2 ml | C(CCC)[Li]
reactant | 2-(3,4-diethoxyphenyl)-4-formylthiazole | 2 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C=O | C14H15NO3S
reactant | water | 10 ml | O | H2O
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
catalyst | benzyltriphenylphosphonium chloride | 2.6 g | [Cl-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(3,4-diethoxyphenyl)-4-styrylthiazole | 2 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C=CC1=CC=CC=C1 | C21H21NO2S
